US20010056123A1
Step 4: Synthesis of N-[2-(5-cyano-2-benzyloxyphenoxy)ethyl]-4-(1-t-butoxycarbonyl-4-piperidyloxy)benzamide:
1.06 g (3.50 mmol) of 3-(2-aminoethoxy)-4-benzyloxybenzonitrile hydrochloride was dissolved in 15 ml of DMF. 1.23 g (3.84 mmol) of 4-(1-t-butoxycarbonyl-4-piperidyloxy)benzoic acid, 710 mg (4.2 mmol)) of 2-chloro-1,3-dimethylimidazonium chloride and 1.45 ml (5.19 mmol) of triethylamine were added to the obtained solution, and they were stirred overnight. After the treatment with dichloromethane as the extraction solvent in an ordinary manner, the solvent was evaporated, and the obtained residue was purified by the silica gel column chromatography to obtain the title compound.

reactant | 3-(2-aminoethoxy)-4-benzyloxybenzonitrile hydrochloride | 3.50 mmol, 1.06 g | Cl.NCCOC=1C=C(C#N)C=CC1OCC1=CC=CC=C1
reactant | 4-(1-t-butoxycarbonyl-4-piperidyloxy)benzoic acid | 3.84 mmol, 1.23 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C(=O)O)C=C1 | C17H23NO5
reactant | triethylamine | 5.19 mmol, 1.45 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | N-[2-(5-cyano-2-benzyloxyphenoxy)ethyl]-4-(1-t-butoxycarbonyl-4-piperidyloxy)benzamide | C(#N)C=1C=CC(=C(OCCNC(C2=CC=C(C=C2)OC2CCN(CC2)C(=O)OC(C)(C)C)=O)C1)OCC1=CC=CC=C1 | C33H37N3O6
